US06348032B1
1-(3-Chlorobenzyl)-6-Ethoxycarbonyl-2-n-Propylbenzimidazole
By using the method of example 47, part A, a preliminarily purified material of 3-[N-(3-chlorobenzyl)butyrylamino]-4-nitro-ethylbenzoate isobtained from 3-butyrylamino-4-nitro-ethylbenzoate (1.86 g) and 3-chlorobenzyl bromide (1.64 g). Without purification, this material is changed to 1-(3-chlorobenzyl)-6-ethoxycarbonyl-2-n-propylbenzimidazole (0.57 g) by using the method of example 47, parts B and C. 1H-NMR CDCl3, δ): 1.02 (3H, t, J=7.4 Hz), 1.39 (3H, t, J=7.1 Hz), 1.85-1.92 (2H, m), 2.80 (2H, t, J=7.5 Hz), 4.38 (2H, q, J=7.1 Hz), 5.37 (2H, s), 6.86 (1H, d, J=7.4 Hz), 7.04 (1H, s), 7.21-7.29 (2H, m), 7.77 (1H, d, J=8.4 Hz), 7.96 (1H, d, J=1.2 Hz), 7.99 (1H, dd, J=8.5 and 1.5 Hz).

reactant | 3-[N-(3-chlorobenzyl)butyrylamino]-4-nitro-ethylbenzoate | ClC=1C=C(CCCCC(=O)NC=2C(=C(C(=O)[O-])C=CC2[N+](=O)[O-])CC)C=CC1
reactant | 3-butyrylamino-4-nitro-ethylbenzoate | 1.86 g | C(CCC)(=O)NC=1C(=C(C(=O)[O-])C=CC1[N+](=O)[O-])CC
reactant | 3-chlorobenzyl bromide | 1.64 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | 1-(3-Chlorobenzyl)-6-Ethoxycarbonyl-2-n-Propylbenzimidazole | ClC=1C=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)CCC)C=CC1 | C20H21ClN2O2
